US04999378
(1) Methyl 4-[3-[N-(4-tert-Butylphenyl)-N-(3,4methylenedioxybenzoyl) amino]propoxy]benzoate
Methyl 4-[3-[N-(4-tert-butylphenyl)amino]propoxy]benzoate (1.80 g) and triethylamine (3.65 ml) were dissolved in THF (40 ml), and cooled with ice, and piperonyl chloride (1.46 g) was added thereto, and the mixture was stirred at room temperature for 16 hours. After the reaction solution was concentrated under reduced pressure, water and ethyl acetate were added thereto and the mixture was separated into layers. The organic layer was washed with water 3 times, and dried under reduced water. The resulting residue was subjected to column chromatography on silica gel and eluted with chloroform to give the desired product (2.01 g).

reactant | Methyl 4-[3-[N-(4-tert-butylphenyl)amino]propoxy]benzoate | 1.80 g | C(C)(C)(C)C1=CC=C(C=C1)NCCCOC1=CC=C(C(=O)OC)C=C1 | C21H27NO3
reactant | triethylamine | 3.65 ml | C(C)N(CC)CC | C6H15N
reactant | piperonyl chloride | 1.46 g | C(C1=CC=2OCOC2C=C1)Cl | C8H7ClO2
reactant | THF | 40 ml | C1CCOC1 | C4H8O
product | Methyl 4-[3-[N-(4-tert-Butylphenyl)-N-(3,4methylenedioxybenzoyl) amino]propoxy]benzoate | 2.01 g | C(C)(C)(C)C1=CC=C(C=C1)N(C(C1=CC2=C(C=C1)OCO2)=O)CCCOC2=CC=C(C(=O)OC)C=C2 | C29H31NO6
